US09120788B2
Step 2. Synthesis of N2-(4-chloro-3-fluorophenyl)pyridine-2,3-diamine (C12)
A mixture of N-(4-chloro-3-fluorophenyl)-3-nitropyridin-2-amine (C11) (5.0 g, 19 mmol) and Raney nickel (3 g) in ethyl acetate (400 mL) was degassed three times with hydrogen. The reaction mixture was then hydrogenated at room temperature for 20 hours. After removal of the catalyst via filtration, the filtrate was concentrated in vacuo. Purification via silica gel chromatography afforded the product as a gray solid. Yield: 3.1 g, 13 mmol, 68%. 1H NMR (400 MHz, CDCl3) δ 7.87 (dd, J=4.9, 1.6 Hz, 1H), 7.38 (dd, J=11.5, 2.5 Hz, 1H), 7.24 (dd, J=8.5, 8.4 Hz, 1H), 7.06 (dd, J=7.6, 1.6 Hz, 1H), 6.92 (ddd, J=8.7, 2.5, 1.0 Hz, 1H), 6.82 (dd, J=7.6, 4.9 Hz, 1H), 6.37 (br s, 1H), 3.38 (br s, 2H).

reactant | N-(4-chloro-3-fluorophenyl)-3-nitropyridin-2-amine | 19 mmol, 5.0 g | ClC1=C(C=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-])F | C11H7ClFN3O2
catalyst | Raney nickel | 3 g | [Ni] | Ni
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | N2-(4-chloro-3-fluorophenyl)pyridine-2,3-diamine | ClC1=C(C=C(C=C1)NC1=NC=CC=C1N)F | C11H9ClFN3
